US05389632
Ethyl 2-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-3-oxohexanoate
A mixture of 69.9 g of ethyl 2-[(2'-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate, prepared according to Example 5, 700 ml of anhydrous toluene and 47.5 g of trimethyltin azide, prepared from sodium azide and trimethyltin chloride, is refluxed for 24 h. A further 47.5 g of trimethyltin azide are added and reflux is continued for 16 h. The mixture is concentrated to 50%. The orange solution obtained is purified by chromatography twice in succession (eluent: chloroform 90%/methanol 10%, then chloroform 95%/methanol 5%) to give 58 g of an orange oil, which crystallizes.

reactant | ethyl 2-[(2'-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 69.9 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | trimethyltin azide | 47.5 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
reactant | trimethyltin azide | 47.5 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-3-oxohexanoate | 58 g | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H24N4O3
